### PR TITLE
Add factorization structures for morphisms

### PR DESCRIPTION
**Pull request by t-wissmann**
This introduces the ℰ,ℳ-factorizations of morphisms in a category, following the definitions of the Adámek, Herrlich, Strecker book ("Joy of cats"). The record FactorizationStructure is Definition 14.1 of that book, together with the properties that the morphism classes ℰ and ℳ are each closed under morphism equality _≈_.

Beside the definition, the following concepts and results are added:

* Categories.Morphism.Lifts:
    * A new record `Diagonal`, which is like `Filler` but does not depend on a commutativity proof.
    * `MorphismClass` inclusion `_⊆_` and closure under morphism equality
    * A new record `MorphismClassMember` that allows a uniform treatment of morphisms in Epi, Mono, etc
* Categories.Morphism.FactorizationStructure.Core: The main definitions for a category 𝒞 and given morphism classes ℰ and ℳ
* Categories.Morphism.FactorizationStructure: The property of a category 𝒞 being [ ℰ , ℳ ]-structured
* Categories.Morphism.FactorizationStructure.Properties: Proofs of ℰ ∩ ℳ = Iso, ℰ∘ℰ⊆ℰ, ℳ∘ℳ⊆ℳ and that ℰ and ℳ determine each other by diagonalization.
* Categories.Morphism.FactorizationStructure.Duality: If 𝒞 is [ ℰ , ℳ ]-structured, then 𝒞ᵒᵖ is [ ℳ , ℰ ]-structured.
* Categories.Morphism.FactorizationStructure.Instance.Setoids: The category Setoids c ℓ is [ Surj , Inj ]-structured, where Surj resp. Inj are the classes of surjections resp. injections.

### CODE REVIEW

**Comment by t-wissmann** [comment]
If you prefer smaller PRs, I can also split this. My intention with the present pull request is to justify the main definition:

1. The files `Duality` and `Properties` show that the `FactorizationStructure` record doesn't lack any axioms.
2. The instance of `Setoids` shows that the `FactorizationStructure` record is consistent (i.e. does not have too many axioms).

If you prefer a smaller PR for the start, I can omit (1) and (2). Below, I flag a few places in my diff that might be worth discussing.

File: src/Categories/Morphism/Lifts.agda [hunk 1]
```diff
@@ -32,6 +32,8 @@ open Definitions 𝒞
 -- For ease of use, we define lifts in two steps:
 -- * 'Filler' describes the data required to fill a /particular/ commutative square.
 -- * 'Lifts' then quantifies over all commutative squares.
+-- For the similar record parametrized only in i f g p but not 'comm',
+-- see Categories.Morphism.FactorizationStructure.Diagonal.
 
 record Filler {A B X Y} {i : A ⇒ B} {f : A ⇒ X} {g : B ⇒ Y} {p : X ⇒ Y}
               (comm : CommutativeSquare i f g p) : Set (ℓ ⊔ e) where
```
Comment (t-wissmann) [inline src/Categories/Morphism/Lifts.agda:39]: Instead of creating a new record `Diagonal`, one could also remove the `comm` requirement from the `Filler` record. I don't see where `Filler` is used at all within the library. I guess that it is hardly used (by users of this library) because the dependence on the equality proof makes it very hard to use. (I can remove it in a PR first if you prefer).

File: src/Categories/Morphism/Lifts.agda [hunk 2]
```diff
@@ -43,13 +45,85 @@ record Filler {A B X Y} {i : A ⇒ B} {f : A ⇒ X} {g : B ⇒ Y} {p : X ⇒ Y}
...
+
 --------------------------------------------------------------------------------
 -- Lifings of Morphism Classes
 
 -- Shorthand for denoting a class of morphisms.
 MorphismClass : (p : Level) → Set (o ⊔ ℓ ⊔ suc p)
 MorphismClass p = ∀ {X Y} → X ⇒ Y → Set p
 
+_⊆_ : {p q : Level} → MorphismClass p → MorphismClass q → Set (o ⊔ ℓ ⊔ p ⊔ q)
+M ⊆ N = ∀ {X Y} → {f : X ⇒ Y} → M f → N f
```
Comment (t-wissmann) [inline src/Categories/Morphism/Lifts.agda:113]: The `_⊆_` relations usually have the element (here: `f : X ⇒ Y`) as an implicit argument. But in the Setoid-Instance in `Inj∘Iso⊆Inj`, the type system failed to infer `f` for me.

File: src/Categories/Morphism/Lifts.agda [hunk 3]
```diff
@@ -43,13 +45,85 @@ record Filler {A B X Y} {i : A ⇒ B} {f : A ⇒ X} {g : B ⇒ Y} {p : X ⇒ Y}
...
+≈-closed M = ∀ {X Y} → {f g : X ⇒ Y} → f ≈ g → M f → M g
+
+-- Bundled structure for members of a morphism class
+record MorphismClassMember {p : Level} (M : MorphismClass p) (A B : Obj) : Set (p ⊔ ℓ) where
+  field
+    mor : A ⇒ B
+    in-class : M mor
+
+mor∈class : ∀ {p : Level} {M : MorphismClass p} {A B : Obj} {h : A ⇒ B} → M h → MorphismClassMember M A B
+mor∈class {h = h} h∈M = record { mor = h ; in-class = h∈M }
```
Comment (t-wissmann) [inline src/Categories/Morphism/Lifts.agda:125]: Should this become the constructor name of `MorphismClassMember`?

**Comment by JacquesCarette** [comment]
I would very much appreciate smaller PRs, thank you. I'll leave some preliminary comments on here too, but they won't be complete.

File: src/Categories/Morphism/FactorizationStructure/Instance/Setoids.agda [hunk 4]
```diff
@@ -0,0 +1,211 @@
+{-# OPTIONS --without-K --safe #-}
+open import Level
+
+-- ------------------------------------------------------------------
+-- The category Setoids c ℓ has a [ Surj , Inj ]-factorization system
+-- ------------------------------------------------------------------
+
+module Categories.Morphism.FactorizationStructure.Instance.Setoids {c ℓ : Level} where
+
+open import Categories.Morphism.FactorizationStructure
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Instance/Setoids.agda:10]: In all additions, you should systematically put `using` clauses on all `open` to restrict things to what you actually need.

File: src/Categories/Morphism/FactorizationStructure/Instance/Setoids.agda [hunk 5]
```diff
@@ -0,0 +1,211 @@
...
+open import Categories.Category.Instance.Setoids
+open import Categories.Morphism (Setoids c ℓ) using (Epi; Mono; _≅_)
+open import Categories.Morphism.Lifts (Setoids c ℓ) using (MorphismClass; _⊆_; ≈-closed; MorphismClassMember; Diagonal; UniqueDiagonal)
+open import Categories.Morphism.Properties (Setoids c ℓ)
+open import Categories.Category
+open import Function.Bundles using (Func; _⟨$⟩_; Surjection; LeftInverse; Injection; Inverse)
+open import Data.Maybe
+open import Data.Unit
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Instance/Setoids.agda:18]: Could this be `Data.Unit.Polymorphic` ?

File: src/Categories/Morphism/FactorizationStructure/Instance/Setoids.agda [hunk 6]
```diff
@@ -0,0 +1,211 @@
...
+open import Function.Definitions
+open import Relation.Binary using (Rel)
+open import Relation.Binary.Bundles using (Setoid)
+open import Relation.Binary.PropositionalEquality.Properties using (setoid)
+import Function.Construct.Composition as compose
+import Function.Construct.Constant as constant
+import Relation.Binary.Reasoning.Setoid as SetoidR
+open import Data.Product.Base
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Instance/Setoids.agda:26]: alphabetical order please!

File: src/Categories/Morphism/FactorizationStructure/Instance/Setoids.agda [hunk 7]
```diff
@@ -0,0 +1,211 @@
...
+FuncClass property {A} {B} f = property (Setoid._≈_ A) (Setoid._≈_ B) (Func.to f)
+
+Surj : MorphismClass (c ⊔ ℓ)
+Surj = FuncClass Surjective
+
+Inj : MorphismClass (c ⊔ ℓ)
+Inj = FuncClass Injective
+
+-- We show that Setoids c ℓ are [ Surj , Inj ]-structured:
+open import Categories.Morphism.FactorizationStructure.Core (Setoids c ℓ) Surj Inj
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Instance/Setoids.agda:51]: Please do this in 2 stages: put the `import` (likely qualified) at the top, and then instantiate it here

File: src/Categories/Morphism/FactorizationStructure/Instance/Setoids.agda [hunk 8]
```diff
@@ -0,0 +1,211 @@
...
+  Mono⊆Inj {f = mor m ∘ h}
+    (Mono-∘ {f = mor m} {g = h}
+      (Inj⊆Mono {f = mor m} (m .in-class))
+      (Iso⇒Mono {f = h} (IsIso.iso h⁻¹)))
+
+-- ------------------------------------------------------
+-- 4. The actual image factorization of a Setoid function
+-- ------------------------------------------------------
+Im[_] : ∀ {X} {Y} (f : X ⇒ Y) → Setoid c ℓ
+Im[_] {X} {Y} f = record
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Instance/Setoids.agda:131]: `open Setoid` in a `where` clause to making things a bit shorter?

File: src/Categories/Morphism/FactorizationStructure/Instance/Setoids.agda [hunk 9]
```diff
@@ -0,0 +1,211 @@
...
+    { refl = λ {x} → Func.cong f (Setoid.refl X)
+    ; sym = Setoid.sym Y
+    ; trans = Setoid.trans Y
+    }
+  }
+
+Dom↠Im[_] : ∀ {X} {Y} (f : X ⇒ Y) → X ↠ Im[ f ]
+Dom↠Im[_] f = record
+  { mor = record
+    { to = λ x → x
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Instance/Setoids.agda:144]: do use `id` (from `Function.Base`) instead.

File: src/Categories/Morphism/FactorizationStructure/Instance/Setoids.agda [hunk 10]
```diff
@@ -0,0 +1,211 @@
...
+    ; cong = Func.cong f
+    }
+  ; in-class = λ x → x , (λ {x'} → f .Func.cong)
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Instance/Setoids.agda:147]: if the implicit is needed on the rhs lambda, at least name it `_`

File: src/Categories/Morphism/FactorizationStructure/Instance/Setoids.agda [hunk 11]
```diff
@@ -0,0 +1,211 @@
...
+  }
+
+Im[_]↣Codom : ∀ {X} {Y} (f : X ⇒ Y) → Im[ f ] ↣ Y
+Im[_]↣Codom f = record
+  { mor = record
+    { to = Func.to f
+    ; cong = λ f[x]≈f[x'] → f[x]≈f[x']
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Instance/Setoids.agda:154]: `id` here and below?

File: src/Categories/Morphism/FactorizationStructure/Instance/Setoids.agda [hunk 12]
```diff
@@ -0,0 +1,211 @@
...
+  Mono⇒UniqueDiagonal (Inj⊆Mono {f = mor m} (m .in-class)) g∘e≈m∘f d m∘d≈g
+  where
+    open Setoid
+    open SetoidR D
+
+    -- consider a splitting of the surjection e
+    s : B .Carrier → A .Carrier
+    s b = proj₁ (e .in-class b)
+
+    e∘s : ∀ b → Setoid._≈_ B (mor e ⟨$⟩ (s b)) b
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Instance/Setoids.agda:172]: Given that you've opened `Setoid`, no need to qualify

File: src/Categories/Morphism/FactorizationStructure/Core.agda [hunk 13]
```diff
@@ -0,0 +1,74 @@
+{-# OPTIONS --without-K --safe #-}
+
+open import Categories.Category
+open import Categories.Morphism.Lifts using (MorphismClass)
+
+
+-- Consider a category 𝒞 and to morphism classes ℰ and ℳ.
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Core.agda]:
```suggestion
-- Consider a category 𝒞 and two morphism classes ℰ and ℳ.
```

File: src/Categories/Morphism/FactorizationStructure/Core.agda [hunk 14]
```diff
@@ -0,0 +1,74 @@
...
+-- The level of the morphism equalities is called `eq`
+-- such that the identifier `e` stays fresh for members of ℰ.
+module Categories.Morphism.FactorizationStructure.Core
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Core.agda:10]: Why `FactorizationStructure` instead of `FactorizationSystem`? I'm open to it, but I would like to hear some reasoning for it.

File: src/Categories/Morphism/FactorizationStructure/Core.agda [hunk 15]
```diff
@@ -0,0 +1,74 @@
...
+record FactorizationStructure : Set (o ⊔ ℓ ⊔ eq ⊔ ℓℰ ⊔ ℓℳ) where
+  field
+    ℰ-resp-≈ : ≈-closed ℰ
+    ℳ-resp-≈ : ≈-closed ℳ
+    -- 1. every morphism admits an (ℰ,ℳ)-factorization
+    factor : ∀ (f : A ⇒ B) → Factorization f
+    -- 2. ℰ and ℳ are closed under compositions with isomorphisms:
+    Iso∘ℰ : ∀ {h : B ⇒ C} → IsIso h → (e : A ↠ B) → ℰ (h ∘ mor e)
+    ℳ∘Iso : ∀ (m : B ↣ C) → {h : A ⇒ B} → IsIso h → ℳ (mor m ∘ h)
+    -- 3. every computative square of the form
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Core.agda]:
```suggestion
    -- 3. every commutative square of the form
```

File: src/Categories/Morphism/FactorizationStructure/Core.agda [hunk 16]
```diff
@@ -0,0 +1,74 @@
...
+    --   A ───>> B
+    --   │     / │
+    --   │  ∃!╱  │
+    -- f │   ╱   │ g
+    --   │  ╱    │
+    --   V V     V
+    --    C >──> D
+    --      m
+    --  has a unique diagonal filler.
+    diagonalization : {f : A ⇒ C} {g : B ⇒ D} (e : A ↠ B) (m : C ↣ D)
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Core.agda:66]: `diagonal-filler` ? `diagonalization` really is something else.

File: src/Categories/Morphism/FactorizationStructure/Core.agda [hunk 17]
```diff
@@ -0,0 +1,74 @@
...
+                      (comm : CommutativeSquare (mor e) f g (mor m))
+                      → UniqueDiagonal (mor e) f g (mor m)
+  d-unique₂ : {f : A ⇒ C} {g : B ⇒ D} (e : A ↠ B) (m : C ↣ D)
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Core.agda:69]: `diag-unique₂` please

File: src/Categories/Morphism/FactorizationStructure/Duality.agda [hunk 18]
```diff
@@ -0,0 +1,85 @@
+{-# OPTIONS --without-K --safe #-}
+
+open import Level
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Duality.agda:3]: When a module is not parametrized by anything, all the `open import` should be inside.

File: src/Categories/Morphism/FactorizationStructure/Duality.agda [hunk 19]
```diff
@@ -0,0 +1,85 @@
...
+dual-factorizations {𝒞 = 𝒞} factorizationstructure = record
+  { ℰ-resp-≈ = ℳ-resp-≈
+  ; ℳ-resp-≈ = ℰ-resp-≈
+  ; factor = λ f →
+           let
+             open Factorization (factor f)
+           in
+           record
+           { Im = Im
+           ; e = record { mor = m .mor ; in-class = m .in-class }
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Duality.agda]: would "e = m; m = e" not work?

File: src/Categories/Morphism/FactorizationStructure/Duality.agda [hunk 20]
```diff
@@ -0,0 +1,85 @@
...
+           ; m = record { mor = e .mor ; in-class = e .in-class }
+           ; m∘e≈h = m∘e≈h
+           }
+  ; Iso∘ℰ = λ h m →
+      ℳ∘Iso
+      (record { mor = m .mor ; in-class = m .in-class })
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Duality.agda]: m ?

File: src/Categories/Morphism/FactorizationStructure/Duality.agda [hunk 21]
```diff
@@ -0,0 +1,85 @@
...
+      (record { inv = h .inv
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Duality.agda]: h ?

I'm thinking you use `auto` just a bit too much! Agda eta-expands a bit too much...

File: src/Categories/Morphism/FactorizationStructure/Duality.agda [hunk 22]
```diff
@@ -0,0 +1,85 @@
...
+              ; iso = record
+                      { isoˡ = isoʳ (h .iso)
+                      ; isoʳ = isoˡ (h .iso) } })
+  ; ℳ∘Iso = λ e h →
+      Iso∘ℰ
+      (record { inv = h .inv
+              ; iso = record
+                    { isoˡ = isoʳ (h .iso)
+                    ; isoʳ = isoˡ (h .iso)}})
+      (record { mor = e .mor ; in-class = e .in-class })
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Duality.agda]: e ?

File: src/Categories/Morphism/FactorizationStructure/Duality.agda [hunk 23]
```diff
@@ -0,0 +1,85 @@
...
+  ; diagonalization = λ e^op m^op comm →
+      let
+        e = record { mor = m^op .mor ; in-class = m^op .in-class }
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Duality.agda]: `e = m^op` ?

File: src/Categories/Morphism/FactorizationStructure/Properties.agda [hunk 24]
```diff
@@ -0,0 +1,266 @@
+{-# OPTIONS --without-K --safe #-}
+
+open import Categories.Category
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Properties.agda:3]: `Categories.Category.Core using (Category)`

File: src/Categories/Morphism/FactorizationStructure/Properties.agda [hunk 25]
```diff
@@ -0,0 +1,266 @@
...
+id-Diagonal : ∀ (g : A ⇒ B) (f : B ⇒ C) → Diagonal g g f f
+id-Diagonal g f = record { d = id ; commˡ = identityˡ ; commʳ = identityʳ }
+
+module Lemma-ℰ∩SplitMono (e : A ↠ B) (m : B ↣ C) {f : A ⇒ C} (diag : Diagonal (mor e) id (mor m) f) where
+  open Diagonal diag
+  -- This module captures a lemma that one almost never needs when working
+  -- with factorization systems, but it is used in all the other proofs
+  -- of the basic factorization system properties:
+  --
+  -- Lemmas from section 14 of
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Properties.agda:44]: ill-formed comment

File: src/Categories/Morphism/FactorizationStructure/Properties.agda [hunk 26]
```diff
@@ -0,0 +1,266 @@
...
+ℰ∩ℳ⊆Iso {A} {B} {h} h∈ℰ h∈ℳ = record
+  { inv = d
+  ; iso = record
+    { isoˡ = commˡ
+    ; isoʳ = commʳ
+    } }
+  where
+    -- consider the diagonal for the trivial commutative square:
+    open UniqueDiagonal (diagonalization (mor∈class h∈ℰ) (mor∈class h∈ℳ) (begin
+          id ∘ h   ≈⟨ identityˡ ⟩
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure/Properties.agda:171]: this is `id-comm-sym`

File: src/Categories/Morphism/Lifts/Properties.agda [hunk 27]
```diff
@@ -54,6 +54,47 @@ module _ {X Y T} {f : X ⇒ Y} {i : X ⇒ T} {p : T ⇒ Y} (factors : f ≈ p 
...
+    ; unique = λ v → p-mono d (Diagonal.d v) (diag .commʳ ○ ⟺ (v .commʳ))
+    }
+    where
+      diag : Diagonal _ _ _ _
+      diag = record
+        { d = d
+        ; commˡ = p-mono (d ∘ i) f (pullˡ p∘d≈g ○ g∘i≈p∘f)
+        ; commʳ = p∘d≈g
+        }
+      open Diagonal hiding (d)
```
Comment (JacquesCarette) [inline src/Categories/Morphism/Lifts/Properties.agda:78]: I much prefer `using` rather than `hiding`

File: src/Categories/Morphism/FactorizationStructure.agda [hunk 28]
```diff
@@ -0,0 +1,24 @@
...
+
+module Categories.Morphism.FactorizationStructure where
+
+
+private
+  variable
+    o ℓ e ℓℰ ℓℳ : Level
+    𝒞 : Category o ℓ e
+
+open import Categories.Morphism.FactorizationStructure.Core
```
Comment (JacquesCarette) [inline src/Categories/Morphism/FactorizationStructure.agda:15]: `public` ?

File: src/Categories/Morphism/Lifts.agda (hunk 1 above)
Comment (JacquesCarette) [reply src/Categories/Morphism/Lifts.agda:39]: I would investigate a bit more, via `git blame` to figure out who introduced this and when. Then I can ask them what their reasoning was, if it is not clear from the PR.

File: src/Categories/Morphism/Lifts.agda [hunk 29]
```diff
@@ -43,13 +45,85 @@ record Filler {A B X Y} {i : A ⇒ B} {f : A ⇒ X} {g : B ⇒ Y} {p : X ⇒ Y}
...
+    --    C ───> D
+    --      m
+    d : B ⇒ X
+    commˡ : d ∘ i ≈ f
+    commʳ : p ∘ d ≈ g
+
+  comm : CommutativeSquare i f g p
+  comm = begin
+    g ∘ i          ≈⟨ commʳ ⟩∘⟨refl ⟨
+    (p ∘ d) ∘ i    ≈⟨ assoc ⟩
```
Comment (JacquesCarette) [inline src/Categories/Morphism/Lifts.agda:74]: that's a [pullʳ](https://agda.github.io/agda-categories/Categories.Morphism.Reasoning.Core.html#2979)

File: src/Categories/Morphism/Lifts.agda (hunk 3 above)
Comment (JacquesCarette) [reply src/Categories/Morphism/Lifts.agda:125]: I would be fine with that

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
Nice contribution, just a bunch of stylistic things to make it fit better with the rest of `agda-categories`

File: src/Categories/Morphism/FactorizationStructure/Duality.agda [hunk 30]
```diff
@@ -0,0 +1,81 @@
...
+  ; diagonalization = λ eᵒᵖ mᵒᵖ comm →
+      let
+        d : UniqueDiagonal 𝒞 (mᵒᵖ .mor) _ _ (eᵒᵖ .mor)
+        d = diagonalization (mᵒᵖ ᵒᵖ) (eᵒᵖ ᵒᵖ) (Equiv.sym comm)
+      in
+      record
+      { diagonal = Diagonalᵒᵖ {𝒞 = 𝒞} (d .diagonal)
+      ; unique = λ v → (d .unique) (Diagonalᵒᵖ v)
+      }
+  }
```
Comment (t-wissmann) [inline src/Categories/Morphism/FactorizationStructure/Duality.agda:75]: Regarding your earlier comment: simply putting `e = m` does not work, because `MorphismClassMember` depends on the category. Here, `e` and `m` in the context are of type `MorphismClass 𝒞 …` whereas the record field needs to be of type `MorphismClass (Category.op 𝒞) …`. This is also why the later η-expanded records can't be defined more shortly and looked like auto (despite it was manual effort ☺).

It's the same issue in other `….Duality` modules, e.g. [Categories.Kan.Duality](https://agda.github.io/agda-categories/Categories.Kan.Duality.html)`. The only difference is that the η-expansion is hidden under `Functor.op`. I have just applied the same trick here, and this makes the whole definition much more pleasant.

Comment (JacquesCarette) [reply src/Categories/Morphism/FactorizationStructure/Duality.agda:75]: Thanks for clarifying. Can you put some comments on each (like "eta expansion is necessary") just so the next person coming along doesn't have the same thought that I did?
